US05641784
8-(4-Morpholinyl)-1,3-dipropyl-7H-purin-2,6-dione
7.9 g (0.033 mol) of 6-amino-5-nitroso-1,3-dipropyluracil and 5.0 g (0.049 mol) of N-formylmorpholine are dissolved in 40 ml of carbon tetrachloride. At ambient temperature, 7.5 g (0.049 mol) of phosphorus oxychloride are added, the mixture is heated to reflux temperature for one hour and left to stand at ambient temperature for about 12 hours. The oil which separates off on the surface is removed, dissolved in 50 ml of dichloromethane and poured onto ice together with the remaining solution, which has been concentrated by half. After neutralisation of the aqueous phase the organic phase is separated off and the aqueous phase is extracted with dichloromethane. From the combined organic phases the title compound is obtained, after drying and evaporation, as a crystalline residue which is recrystallised from ethanol.

reactant | 6-amino-5-nitroso-1,3-dipropyluracil | 0.033 mol, 7.9 g | NC1=C(C(N(C(N1CCC)=O)CCC)=O)N=O | C10H16N4O3
reactant | N-formylmorpholine | 0.049 mol, 5.0 g | C(=O)N1CCOCC1 | C5H9NO2
reactant | phosphorus oxychloride | 0.049 mol, 7.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 8-(4-Morpholinyl)-1,3-dipropyl-7H-purin-2,6-dione | N1(CCOCC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C15H23N5O3
